Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine / coconut oil / coconut
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting, lethargy
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ h/o mult CVA ___ on xarelto), 
DVT/PE while on Coumadin, now on rivaroxaban, mult CVA CVA with 
residual weakness, chronic pain, and recent right knee 
meniscectomy (___), Roux-en-Y gastric bypass, chronic 
abdominal pain, polysubstance abuse, prior CVAs who presents 
w/nausea, vomiting and lethargic.

States that AM of ___ woke up with bad headache and nausea which 
persisted all day. Then went to dinner with daughter at ___. 
While at dinner headache worsened significantly which brought on 
worsening nausea. Subsequently vomited bilious non bloody 
vomitus Patient was with her daughter at the time. Then went 
outside and continued to vomit. 

Patient denies any fevers or chest pain. Patient denies any 
black or bloody stools or dysuria. No dyspnea or cough. Patient 
states that she has a severe headache. 

Patient denies any ingestions including alcohol or illicits. 
Patient found to be hypoglycemic to ___nd 
received amps of dextrose here twice.

Of note, patient notes >60lbs of unintentional weight loss since 
___ of this year. She has been evaluated by urology at ___ 
for cells concerning for TCC, but repeat w/'atypia.' Per patient 
biopsy results are pending, but she is unclear about specifics. 
Additionally, mentions she is seeing ___ heme onc again (last 
in ___ Dr. ___ for full hypercoagulability work up 
(negative).

ED Course Significant for:
Exam:
Somnolent, left lower quadrant tenderness, GCS 14, ___ stroke
scale 0

Imaging showing: 
CT head which was reassuring. CT of the abdomen pelvis without 
any acute process (no colitis, no stranding).

In the ED, initial VS were:
98.0 133/98 17 100% RA 66 (in field FSBG 55)

Labs showed:
Chem 7 unremarkable
Hb 10.7

LFTs, Lipase, hCG: called lab, they were never drawn 

Lactate:2.2

UTox: Urine Benzos Pos 
      Urine Mthdne Pos 
      Urine Barbs, Opiates, Cocaine, Amphet, Oxycodone Negative
 
Serum: positive for TCA

Received:
___ 16:25 IV Dextrose 50% 25 gm   
___ 17:04 IV Ondansetron 4 mg 
___ 17:59 PO/NG HYDROmorphone (Dilaudid) 2 mg
___  
___ 20:08 IVF  NS 1000 mL 
___ 20:58 PO Acetaminophen 1000 mg  
___ 20:58 IV Ondansetron 4 mg 
___ 21:44 IV Dextrose 50% 25 gm 
___ 23:25 IV HYDROmorphone (Dilaudid) .5 mg  
___ 00:37 PO/NG Doxepin HCl 100 mg 
___ 00:37 PO/NG Gabapentin 200 mg 
___ 00:37 PO/NG QUEtiapine Fumarate 75 mg  

Patient continued to have significant abdominal pain and 
inability to tolerate p.o. secondary to nausea. Patient remains 
somewhat somnolent although has had improved mental status and 
coherent after administration of dextrose.

On arrival to the floor, patient reports improving nausea and 
has some appetite. Still feels very ill. 

REVIEW OF SYSTEMS:  
(+)PER HPI
 
Past Medical History:
- Morbid obesity status post gastric bypass and cholecystectomy  

 in ___ with subsequent reversal surgery at the ___ -  
 multiple prior abdominal surgeries including a J-tube in ___  
 with apparent complication of a perforated colon.  
-Positive PPD  
 -Hepatitis C, chronic 
-Sleep apnea 
- History of recurrent esophageal candidiasis s/p treatment  
- History of hypertension, DM, and asthma prior to gastric  
 bypass.  
- DVT and PE in ___ on rivaroxaban 
- CVA with residual Lt sided weakness and slurred speech  
- History of SBO  
- Chronic pain  
- History of opiate addiction: prior intranasal heroin, oral  
dilaudid abuse, on methaone.  
- Degenerative disc disease  
- Depression/anxiety  
- s/p ___: Arthroscopy, medial meniscectomy, right knee  
 
Social History:
___
Family History:
Mother with diabetes and HTN. Brother with CHF. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VS:  98.0 PO 93 / 63 84 18 100 RA 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
dry MM
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3. CN exam significant for left facial droop and 
asymmetric smile (stable since CVA). Possible visual field 
defect in superior aspect of visual field in the L eye (unclear 
chronicity).  Otherwise all CN in tact. Strength: ___ weakness 
___ and LL extremity w/flexion (weaker w/extension) Sensation 
intact
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE PHYSICAL EXAM:
========================
Vitals: 98.1F BP 103/69 HR 73 RR 16 96% on Ra 
General: NAD. Lying comfortably in bed. 
HEENT: Sclera anicteric, MMM. 
Neck: Supple. No tenderness to palpation. 
CV: Regular rate and rhythm, normal S1 + S2. No murmurs, rubs or 
gallops. 
Pulm: Normal respiratory effort. CTAB without wheezez, rales, or 
rhonchi. 
Abdomen: Soft, non-distended, non-tender. Normoactive BS. No 
masses. 
Ext: Warm, well perfused, 2+ pulses, no cyanosis or edema.
Skin: No rashes. Warm. 
Neuro: Alert and interactive. Decreased sensation over left 
face. Left sided facial droop present. Possible visual field 
defect in superior aspect of visual field in the L eye (unclear 
chronicity). Other CN intact. ___ strength in LUE and LLE. ___ 
___+/5 in RLE. Decreased sensation over left-side. 
(reports this is her baseline
neurological exam).
Mood: Normal mood and affect. 

 
Pertinent Results:
ADMISSION LABS:
================
___ 04:15PM BLOOD WBC-5.8# RBC-3.55* Hgb-10.7* Hct-34.3 
MCV-97 MCH-30.1 MCHC-31.2* RDW-16.7* RDWSD-59.8* Plt ___
___ 04:15PM BLOOD Neuts-65.3 ___ Monos-6.3 Eos-0.3* 
Baso-0.5 Im ___ AbsNeut-3.80 AbsLymp-1.59 AbsMono-0.37 
AbsEos-0.02* AbsBaso-0.03
___ 04:15PM BLOOD Glucose-70 UreaN-13 Creat-1.1 Na-144 
K-4.0 Cl-105 HCO3-28 AnGap-11
___ 04:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-POS*
___ 04:36PM BLOOD Lactate-2.2*

PERTINENT LABS:
================
___ 10:10AM BLOOD ALT-19 AST-22 AlkPhos-144* TotBili-0.3 
DirBili-<0.2 IndBili-0.3
___ 10:10AM BLOOD Lipase-7
___ 10:10AM BLOOD calTIBC-199* Ferritn-39 TRF-153*
___ 04:15PM BLOOD Cortsol-25.0*
___ 07:55AM BLOOD Cortsol-22.7*
___ 08:10AM BLOOD CRP-1.2
___ 10:10AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-POS*
___ 04:36PM BLOOD Lactate-2.2*

DISCHARGE LABS:
===============
___ 07:45AM BLOOD WBC-3.5* RBC-3.37* Hgb-10.5* Hct-33.2* 
MCV-99* MCH-31.2 MCHC-31.6* RDW-16.9* RDWSD-61.4* Plt ___
___ 07:45AM BLOOD Glucose-80 UreaN-17 Creat-0.9 Na-140 
K-4.8 Cl-103 HCO3-25 AnGap-12

PERTINENT IMAGING:
===================
___ CXR: 
No acute cardiopulmonary process.

___ CT Head w/o Contrast:
1. No acute intracranial process. 
2. No acute fracture. 

___ CT Abd/Pelvis:
1. No acute process in the abdomen or pelvis.  Specifically, no 
colitis. 
2. Status post Roux-en-Y gastric bypass with unchanged mild 
dilatation at the jejunal jejunostomy.  No small bowel 
obstruction. 
3. Status post cholecystectomy with associated stable mild intra 
and extrahepatic biliary ductal dilatation. 

___ MRA Head w/ & w/o Contrast:
1. Mildly motion limited exam. 
2. No evidence for carotid stenosis. 
3. The non dominant left vertebral artery arises directly from 
the aortic 
arch, a normal variant.  The distal left V4 segment demonstrates 

asymmetrically decreased contrast enhancement distal to ___ 
___, 
compatible with non dominant status. 

___ MRI Head w/ & w/o Contrast:
1. Questionable punctate acute infarction in the left pons, seen 
on diffusion tracer images only, versus artifact. 
2. Expected evolution of three small right cerebellar hemisphere 
infarcts 
since ___. 

___ TTE w/ Bubble Study:
The left atrium is normal in size. No atrial septal defect or 
patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. Left ventricular wall thickness, cavity 
size and regional/global systolic function are normal (LVEF 
>55%). No masses or thrombi are seen in the left ventricle. 
There is no ventricular septal defect. Right ventricular chamber 
size and free wall motion are normal. The diameters of aorta at 
the sinus, ascending and arch levels are normal. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. No masses or vegetations are seen on the aortic 
valve. No aortic regurgitation is seen. The mitral valve appears 
structurally normal with trivial mitral regurgitation. No mass 
or vegetation is seen on the mitral valve. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion.   
 
Brief Hospital Course:
Ms. ___ is a ___ y/o female with history of multiple CVA 
___ on xarelto) with residual weakness, DVT/PE while on 
Coumadin, now on xarelto, Roux-en-Y gastric bypass, chronic 
abdominal pain, polysubstance use disorder who presented w/ 
nausea, vomiting and headache.

ACUTE MEDICAL ISSUES ADDRESSED:
=============================

#Headache
#Nausea/Vomiting
   Patient p/w new progressive headache x 3 weeks, nausea and 
vomiting x 1 day with worsening abdominal pain. CT 
abdomen/pelvis, LFTs and lipase were unremarkable and the n/v 
was suspected to either be a benign viral gastroenteritis, or to 
be related to headache. A new severe headache in a ___ year old 
patient was felt to be concerning for secondary headache.
   The headache was right-sided, radiating from the occiput to 
behind the R eye. Neuro exam unchanged from baseline other than 
a left-sided visual field defect, which is of unclear chonicity; 
otherwise no symptomatic evidence of new stroke. Follow-up 
MRI/MRA was only notable for a questionable punctate infarction 
in the left pons, though imaging artifact was also possible. CRP 
wnl, effectively ruling out temporal arteritis. 
   Pseudotumor cerebri was considered, although fundoscopic exam 
was without papilledema and bedside ultrasound of optic nerve 
also did not suggest increased sheath diameter. LP was planned, 
but aborted at the last minute upon realization that the patient 
had already received lovenox that day. She subsequently improved 
with symptomatic treatment; thus, LP was deferred. The etiology 
remained unclear at discharge and she will follow up in headache 
clinic.

#Abdominal pain
#Chronic pain
#Hx of opiate use disorder
Pt w/ acute on chronic abdominal pain x 1 day, initial exam 
notable for epigastric and LUQ TTP. Lipase, LFTs unremarkable. 
CT abd/pelvis without acute etiology. Believed to be chronic 
baseline pain that worsened in the setting of nausea/vomiting. 
She was continued on methadone, dilaudid, gabapentin, and 
Tylenol with minimal additional dilaudid doses required. Weaned 
back to home regimen by discharge.

#Lethargy
Appeared lethargic on admission but otherwise oriented. She 
reported this was her baseline. There were no clear metabolic 
derangements nor evidence of infectious etiology. Lethargy 
improved some during hospitalization and was overall thought to 
be related to polypharmacy in the setting of methadone, 
dilaudid, gabapentin, and clonazepam. 

#Recurrent CVA on Anticoagulation
Has a history of CVA while on xarelto. On that prior admission, 
neurology had wanted CTA head/neck and TTE w/ bubble, but these 
had not been completed so were belatedly completed on this 
admission. MRA Neck/Head done during this hospitalization was 
overall unremarkable, other than a questionable punctate 
infarction in the left pons, though this had no obvious clinical 
correlate and imaging artifact was also possible. TTE with 
bubble study was done, and it did not show any PFO or ASD. 
Rivaroxaban was briefly switched to lovenox due to nausea and 
poor po intake; however she was switched back to xarelto prior 
to discharge. Of note, her prior positive lupus anticoagulant 
was felt to be a likely false positive, so a repeat was drawn 
while the patient was off anticoagulation as requested by 
Heme/onc, pending at discharge.

CHRONIC ISSUES ADDRESSED:
=========================
#Unintentional Weight Loss
#Abnormal Urine Cytology
Presented following 60 lbs unintentional weight loss (though 
seems that pt gained 60 lbs then lost 60 lbs within last year). 
She reports good appetite and po intake prior to her recent 
nausea and vomiting. No fever or night sweats. Of note, she 
previously had an abnormal urine cytology suspicious for high 
grade urothelial carcinoma but follow-up cytology was normal. 
Her last colonoscopy in ___ showed polyps. She was unsure when 
her last mammography occurred. Recommend urology follow-up and 
cancer screening as an outpatient. 

MEDICATION CHANGES:
===================
- None

TRANSITIONAL ISSUES:
===================
[ ] Recent weight loss - needs malignancy screening (last 
mammography unknown, last pap unknown, still has not completed 
cystoscopy for prior hematuria and abnormal urine cytology)
[ ] Will follow up with primary care provider
[ ] Will follow up with neurology to continue post-stroke care 
and consider further workup for headaches, if indicated. 
[ ] Question of visual field defect on bedside exam; Will 
follow-up ophthalmology
[ ] Consider repeat MRI brain in ___ weeks to reevaluate 
questionable new punctate pontine lesion.
[ ] If headaches return, consider lumbar puncture to 
conclusively rule out pseudotumor cerebri.
[ ] Continue to work on decreasing her multiple sedating 
medications if possible

#CODE: Full (presumed) 
#CONTACT: HCP: mom ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Lactulose 10 mL PO BID:PRN constipation 
2. Acetaminophen 1000 mg PO Q8H 
3. Ascorbic Acid ___ mg PO DAILY 
4. BuPROPion (Sustained Release) 150 mg PO BID 
5. ClonazePAM 0.5 mg PO DAILY anxiety 
6. Cyanocobalamin 1000 mcg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Doxepin HCl 100 mg PO HS 
9. Ferrous Sulfate 325 mg PO DAILY 
10. FoLIC Acid 1 mg PO DAILY 
11. Gabapentin 200 mg PO TID 
12. HYDROmorphone (Dilaudid) 2 mg PO Q8H:PRN BREAKTHROUGH PAIN 
13. Methadone 20 mg PO TID 
14. Multivitamins W/minerals 1 TAB PO DAILY 
15. Pantoprazole 40 mg PO Q12H 
16. Promethazine 12.5 mg PO TID:PRN nausea 
17. QUEtiapine Fumarate 75 mg PO QHS 
18. Rivaroxaban 20 mg PO DAILY 
19. Senna 8.6 mg PO BID 
20. Sucralfate 1 gm PO QID 
21. Thiamine 100 mg PO DAILY 
22. Vitamin D 1000 UNIT PO DAILY 
23. Ranitidine 150 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Ascorbic Acid ___ mg PO DAILY  
3.  BuPROPion (Sustained Release) 150 mg PO BID  
4.  ClonazePAM 0.5 mg PO DAILY anxiety  
5.  Cyanocobalamin 1000 mcg PO DAILY  
6.  Docusate Sodium 100 mg PO BID  
7.  Doxepin HCl 100 mg PO HS  
8.  Ferrous Sulfate 325 mg PO DAILY  
9.  FoLIC Acid 1 mg PO DAILY  
10.  Gabapentin 200 mg PO TID  
11.  HYDROmorphone (Dilaudid) 2 mg PO Q8H:PRN BREAKTHROUGH PAIN  

12.  Lactulose 10 mL PO BID:PRN constipation  
13.  Methadone 20 mg PO TID  
14.  Multivitamins W/minerals 1 TAB PO DAILY  
15.  Pantoprazole 40 mg PO Q12H  
16.  Promethazine 12.5 mg PO TID:PRN nausea  
17.  QUEtiapine Fumarate 75 mg PO QHS  
18.  Ranitidine 150 mg PO DAILY  
19.  Rivaroxaban 20 mg PO DAILY  
20.  Senna 8.6 mg PO BID  
21.  Sucralfate 1 gm PO QID  
22.  Thiamine 100 mg PO DAILY  
23.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# Primary diagnosis: headache, nausea, vomiting
# Secondary diagnosis: Chronic pain, history of thromboembolic 
events

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
  
It was a pleasure to care for you at the ___ 
___.  

Why did you come to the hospital?  
- You were admitted because of your severe headache, nausea, and 
vomiting
  
What did you receive in the hospital?  
- You received medication to manage your pain and nausea 
- Your head and abdomen were imaged and there was no obvious 
cause for our pain
- The MRI of your head showed one small lesion, but the 
radiologists could not determine if it represented a new infarct 
or an artifact of the imaging. You should follow-up with 
neurology on ___ who will determine if you need repeat MRI
- Your blood sugars were monitored and when they were found to 
be low, you received dextrose through your IV 
- Your heart was monitored on telemetry to ensure that you did 
not have any arrhythmias

What should you do once you leave the hospital?  
- Please continue taking your medication as prescribed
- Please follow up with your primary care physician (___)
- Please follow up with your urologist regarding the abnormal 
urine test you previously had (___)
- Please follow up with neurology (___)
- If your headache returns, please be aware you can schedule an 
appointment with the Neurology urgent care clinic by calling 
___.

We wish you the best!  

Sincerely,
 Your ___ Care Team  
 
Followup Instructions:
___